* D:\GoogleDrive-ITBA\ITBA - Me\2019B\Electronica I\ElectronicaI-TP2\TP2-Opcion2.asc
Q1 N006 V1 N008 0 BC337-40
Q2 N003 N007 N008 0 BC337-40
R1 N008 -VEE 6k8
R3 VCC N003 6k8
C1 N002 N003 100n
R6 0 N002 680
Q3 -VEE N002 N001 0 BC556B
R7 VCC N001 2K2
R4 V1 N005 570
R5 VCC N006 6k8
Vs1 N005 0 SINE(0 1 1k) AC 1
V2 VCC 0 15
V3 0 -VEE 15
C2 Vo N001 100n
R9 Vo 0 2k2
R2 N002 -VEE 6K8
R8 V2 N004 570
Vs2 0 N004 SINE(0 1 1k) AC 1
R10 N007 0 570
.model NPN NPN
.model PNP PNP
.lib C:\Users\BZeroL\Documents\LTspiceXVII\lib\cmp\standard.bjt
.ac dec 1000 10 1meg
;tran 0 1 0 0.01
.backanno
.end
